US05968967
3-(4-t-butylphenyl)-1-(4-cyanophenyl)-4-(N-ethoxycarbonylmethyloxyethyl-N-methyl-aminocarbonyl)-2-methyl-2H-pyrazol-5-one (Compound No. 65)
To a mixture of 900 mg of 4-(N-t-butyloxycarbonylmethyloxyethyl-N-methyl-aminocarbonyl)-3-(4-t-butylphenyl)-1-(4-cyanophenyl)-2-methyl- 2H-pyrazol-5-one and 10 ml of ethanol, 4 drops of concentrated sulfuric acid was added, and the resulting reaction solution was refluxed under heating for 2.5 hours. After the ethanol was removed by evaporation under reduced pressure, water was added, and the reaction solution was extracted with chloroform. The extract was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The insolubles were filtered off, and the filtrate was concentrated. The resulting residue was recrystallized in chloroform-ether-hexane to give 440 mg of the title compound as colorless crystals.

reactant | 4-(N-t-butyloxycarbonylmethyloxyethyl-N-methyl-aminocarbonyl)-3-(4-t-butylphenyl)-1-(4-cyanophenyl)-2-methyl- 2H-pyrazol-5-one | 900 mg | C(C)(C)(C)OC(=O)COCCN(C(=O)C1=C(N(N(C1=O)C1=CC=C(C=C1)C#N)C)C1=CC=C(C=C1)C(C)(C)C)C | C31H38N4O5
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(4-t-butylphenyl)-1-(4-cyanophenyl)-4-(N-ethoxycarbonylmethyloxyethyl-N-methyl-aminocarbonyl)-2-methyl-2H-pyrazol-5-one | 440 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1N(N(C(C1C(=O)N(C)CCOCC(=O)OCC)=O)C1=CC=C(C=C1)C#N)C | C29H34N4O5
